US07632840B2
4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid was coupled with paraformaldehyde using an analogous method to that described for the equivalent step in Example 11 to give 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid; 1H NMR Spectrum: (DMSO-d6) 1.70-1.89 (m, 2H), 2.05-2.19 (m, 2H), 2.20 (s, 3H), 3.10-3.60 (m, 2H+ H2O), 3.70 (s, 2H), 3.88 (m, 2H), 3.93 (s, 3H), 7.18 (s, 1H), 7.28 (m, 1H), 7.40-7.60 (m, 2H), 8.30 (s, 1H), 8.41 (s, 1H), 9.76 (brs, 1H). Mass Spectrum: (M+H)+ 475.

reactant | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC1(CCOCC1)C(=O)O)OC)F | C22H22ClFN4O4
reactant | paraformaldehyde | C=O | CH2O
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCOCC1)C(=O)O)C)OC)F | C23H24ClFN4O4
